US05674886
EXAMPLE 70 1-[N-(4-fluorobenzyl)-N-(4-cyanophenyl)amino]-1H-1,2,4-triazole
Starting Compounds: 1-[N-(4-cyanophenyl)amino]-1H-1,2,4-triazole and 4-fluorobenzyl bromide

reactant | 1-[N-(4-cyanophenyl)amino]-1H-1,2,4-triazole | C(#N)C1=CC=C(C=C1)NN1N=CN=C1 | C9H7N5
reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
product | 1-[N-(4-fluorobenzyl)-N-(4-cyanophenyl)amino]-1H-1,2,4-triazole | FC1=CC=C(CN(C2=CC=C(C=C2)C#N)N2N=CN=C2)C=C1 | C16H12FN5
